US08222416B2
To a 0° C. solution of 2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (24.0 g, 200 mmol) in N,N-dimethylformamide (68 mL) was added a 60% dispersion of sodium hydride in mineral oil (12.0 g, 300 mmol) portionwise. The mixture was stirred at 0° C. for 30 min and then a solution of tert-butyldimethylsilyl chloride (46 g, 300 mmol) in N,N-dimethylformamide (100 mL) was added to the above mixture dropwise at 0° C. The mixture was stirred at 0° C. for 3 h and then extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The yellowish residue was purified by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 5% ethyl acetate/hexanes) to afford 1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (31 g, 66%) as a yellow oil: LC/MS m/e calcd for C13H23N2Si [M+H]+ 235.42, observed 235.3; 1H NMR (400 MHz, CDCl3) δ ppm 0.35 (s, 6H), 0.98 (s, 9H, 3×CH3), 3.02 (t, J=8.6 Hz, 2H), 3.68 (t, J=8.6 Hz, 2H), 6.40 (dd, J=5.2 Hz, 7.0 Hz, 1H), 7.15 (d, J=7.0 Hz, 1H), 7.80 (d, J=5.2 Hz, 1H).

reactant | 2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 200 mmol, 24.0 g | N1CCC=2C1=NC=CC2 | C7H8N2
reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyldimethylsilyl chloride | 300 mmol, 46 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 68 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 31 g, 66% | C(C)(C)(C)[Si](N1CCC=2C1=NC=CC2)(C)C | C13H22N2Si
